### PR TITLE
[Merged by Bors] - feat(Mathlib.RingTheory.MvPowerSeries.Evaluation): evaluation of power series

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Define the evaluation of (Mv)PowerSeries in complete hausdorff linear algebras

Co-authored-by: María Inés de Frutos Fernández

---

- [x] depends on: #14990 
- [x] depends on: #14866 
- [x] depends on: #14865
- [x] depends on: #20958
- [x] depends on: #20971

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by AntoineChambert-Loir** [comment]
Note: the import linter makes a wrong recommendation here:
```
Warning: ././././Mathlib/RingTheory/PowerSeries/Evaluation.lean:8:1: warning: import #[Mathlib.RingTheory.PowerSeries.Basic] instead
././././Mathlib/RingTheory/PowerSeries/Evaluation.lean:
  remove #[Mathlib.RingTheory.PowerSeries.Topology]
  add #[Mathlib.RingTheory.PowerSeries.Basic]
```
but #[Mathlib.RingTheory.PowerSeries.Topology] is necessary to access `WithPiTopology`.

File: scripts/noshake.json [hunk 1]
```diff
@@ -320,8 +320,13 @@
   "Mathlib.RingTheory.PowerSeries.Basic":
   ["Mathlib.Algebra.CharP.Defs", "Mathlib.Tactic.MoveAdd"],
   "Mathlib.RingTheory.PolynomialAlgebra": ["Mathlib.Data.Matrix.DMatrix"],
+<<<<<<< HEAD
+  "Mathlib.RingTheory.PowerSeries.Evaluation":
+  ["Mathlib.RingTheory.PowerSeries.PiTopology"],
+=======
   "Mathlib.RingTheory.MvPowerSeries.Basic":
   ["Mathlib.Algebra.MvPolynomial.Eval"],
+>>>>>>> master
```
Comment (ADedecker) [inline scripts/noshake.json:329]: This looks like a badly solved merge conflict, could you fix it?

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean [hunk 2]
```diff
@@ -0,0 +1,209 @@
...
+    exact (Filter.biInter_mem hD).mpr fun i a ↦ ht i
+  · rintro ⟨Jd, hJd_mem_nhds, hJd⟩
+    exact Filter.sets_of_superset _ (basis_mem_nhds_zero ⟨⟨Jd.1, hJd_mem_nhds⟩,Jd.2⟩) hJd
+
+lemma hasBasis_nhds_zero [IsLinearTopology R R] [IsLinearTopology Rᵐᵒᵖ R] :
+    (𝓝 0 : Filter (MvPowerSeries σ R)).HasBasis
+      (fun Id : TwoSidedIdeal R × (σ →₀ ℕ) ↦ (Id.1 : Set R) ∈ 𝓝 0)
+      (fun Id ↦ basis _ _ Id) := by
+  sorry
+
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:180]:
```suggestion
```

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 3]
```diff
@@ -678,9 +677,9 @@ theorem coeff_pow [DecidableEq σ] (f : MvPowerSeries σ R) {n : ℕ} (d : σ 
 /-- Vanishing of coefficients of powers of multivariate power series
 when the constant coefficient is nilpotent
 [N. Bourbaki, *Algebra {II}*, Chapter 4, §4, n°2, proposition 3][bourbaki1981] -/
-theorem coeff_eq_zero_of_constantCoeff_nilpotent
-    {f : MvPowerSeries σ R} {m : ℕ} (hf : constantCoeff σ R f ^ m = 0)
-    {d : σ →₀ ℕ} {n : ℕ} (hn : m + degree d ≤ n) : coeff R d (f ^ n) = 0 := by
+theorem coeff_eq_zero_of_constantCoeff_nilpotent {f : MvPowerSeries σ R} {m : ℕ}
+    (hf : constantCoeff σ R f ^ m = 0) {d : σ →₀ ℕ} {n : ℕ} (hn : m + degree d ≤ n) :
+    coeff R d (f ^ n) = 0 := by
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:682]:
```suggestion
theorem coeff_eq_zero_of_constantCoeff_nilpotent 
    {f : MvPowerSeries σ R} {m : ℕ} (hf : constantCoeff σ R f ^ m = 0) 
    {d : σ →₀ ℕ} {n : ℕ} (hn : m + degree d ≤ n) : coeff R d (f ^ n) = 0 := by
```

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 4]
```diff
@@ -678,8 +677,8 @@ theorem coeff_pow [DecidableEq σ] (f : MvPowerSeries σ R) {n : ℕ} (d : σ 
 /-- Vanishing of coefficients of powers of multivariate power series
 when the constant coefficient is nilpotent
 [N. Bourbaki, *Algebra {II}*, Chapter 4, §4, n°2, proposition 3][bourbaki1981] -/
-theorem coeff_eq_zero_of_constantCoeff_nilpotent
-    {f : MvPowerSeries σ R} {m : ℕ} (hf : constantCoeff σ R f ^ m = 0)
+theorem coeff_eq_zero_of_constantCoeff_nilpotent 
+    {f : MvPowerSeries σ R} {m : ℕ} (hf : constantCoeff σ R f ^ m = 0)
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:681]:
```suggestion
theorem coeff_eq_zero_of_constantCoeff_nilpotent
    {f : MvPowerSeries σ R} {m : ℕ} (hf : constantCoeff σ R f ^ m = 0)
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 5]
```diff
@@ -0,0 +1,408 @@
...
+  use f.truncFun' n
+  constructor
+  · apply hp_le
+    simp only [Set.mem_pi]
+    intro d hd
+    apply mem_of_mem_nhds
+    convert hp d using 2
+    change MvPolynomial.coeff d (truncFun' n f)  = MvPowerSeries.coeff R d f
+    rw [coeff_truncFun', if_pos (hn hd)]
+  · simp only [Set.mem_range, coeToMvPowerSeries.ringHom_apply, MvPolynomial.coe_inj, exists_eq]
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:134]:
```suggestion
  have : Tendsto (fun d ↦ (trunc' R d f : MvPowerSeries σ R)) atTop (𝓝 f) := by
    rw [tendsto_iff_coeff_tendsto]
    refine fun d ↦ tendsto_atTop_of_eventually_const fun n (hdn : d ≤ n) ↦ ?_
    simp [coeff_trunc', hdn]
  exact mem_closure_of_tendsto this <| .of_forall fun _ ↦ mem_range_self _
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 6]
```diff
@@ -0,0 +1,408 @@
...
+    IsUniformInducing (coeToMvPowerSeries.ringHom (σ := σ) (R := R)) :=
+  (isUniformInducing_iff ⇑coeToMvPowerSeries.ringHom).mpr rfl
+
+theorem _root_.MvPolynomial.coeToMvPowerSeries_denseInducing :
+    IsDenseInducing (coeToMvPowerSeries.ringHom (σ := σ) (R := R)) :=
+  coeToMvPowerSeries_uniformInducing.isDenseInducing coeToMvPowerSeries_denseRange
+
+variable {a : σ → S}
+
+/- The coercion of polynomials into power series is uniformly continuous. -/
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:167]: This docstring doesn't seem to correspond to the theorem.

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 7]
```diff
@@ -0,0 +1,408 @@
...
+    · apply Ideal.mul_mem_left
+      simp only [mem_Iic, D, Finsupp.le_iff] at hd
+      push_neg at hd
+      rcases hd with ⟨s, hs', hs⟩
+      rw [Finset.prod_eq_prod_diff_singleton_mul hs']
+      · apply Ideal.mul_mem_left
+        rw [← Nat.add_sub_of_le (Nat.succ_le_of_lt hs), pow_add]
+        apply Ideal.mul_mem_right
+        simp only [Finsupp.coe_mk, n₀, n]
+        exact Nat.sInf_mem (hn_ne s)
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:235]: I have other comments and suggestions in preparation for this proof, but this is an obvious one: could you extract this to a lemma (or find an existing lemma) saying that a product belongs to an ideal if one of the factors does?

**Review by ADedecker — COMMENTED** [review]
I have more comments incoming, but let's start with this.

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 8]
```diff
@@ -0,0 +1,396 @@
...
+    rw [eval₂_eq]
+    apply Ideal.sum_mem
+    intro d _
+    by_cases hd : d ∈ D
+    · exact Ideal.mul_mem_right _ _ (hp d hd)
+    · apply Ideal.mul_mem_left
+      simp only [mem_Iic, D, Finsupp.le_iff] at hd
+      push_neg at hd
+      rcases hd with ⟨s, hs', hs⟩
+      exact I.mem_prod_of_mem hs' (I.pow_mem_of_pow_mem (Nat.sInf_mem (hn_ne s)) hs)
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:223]:
```suggestion
  classical
  apply uniformContinuous_of_continuousAt_zero
  rw [ContinuousAt, map_zero, IsLinearTopology.hasBasis_ideal.tendsto_right_iff]
  intro I hI
  let n : σ → ℕ := fun s ↦ sInf {n : ℕ | (a s) ^ n.succ ∈ I}
  have hn_ne : ∀ s, Set.Nonempty {n : ℕ | (a s) ^ n.succ ∈ I} := fun s ↦ by
    rcases ha.hpow s |>.eventually_mem hI |>.exists_forall_of_atTop with ⟨n, hn⟩
    use n
    simpa using hn n.succ n.le_succ
  have hn : Set.Finite (n.support) := by
    change n =ᶠ[cofinite] 0
    filter_upwards [ha.tendsto_zero.eventually_mem hI] with s has
    simpa [n, Pi.zero_apply, Nat.sInf_eq_zero, or_iff_left (hn_ne s).ne_empty] using has
  let n₀ : σ →₀ ℕ := .ofSupportFinite n hn
  let D := Iic n₀
  have hD : Set.Finite D := finite_Iic _
  have : ∀ d ∈ D, ∀ᶠ (p : MvPolynomial σ R) in 𝓝 0, φ (p.coeff d) ∈ I := fun d hd ↦ by
    have : Tendsto (φ ∘ coeff R d ∘ toMvPowerSeries) (𝓝 0) (𝓝 0) :=
      hφ.comp (continuous_coeff R d) |>.comp continuous_induced_dom |>.tendsto' 0 0 (map_zero _)
    filter_upwards [this.eventually_mem hI] with f hf
    simpa using hf
  rw [← hD.eventually_all] at this
  filter_upwards [this] with p hp
  rw [coe_eval₂Hom, SetLike.mem_coe, eval₂_eq]
  apply Ideal.sum_mem
  intro d _
  by_cases hd : d ∈ D
  · exact Ideal.mul_mem_right _ _ (hp d hd)
  · apply Ideal.mul_mem_left
    simp only [mem_Iic, D, Finsupp.le_iff] at hd
    push_neg at hd
    rcases hd with ⟨s, hs', hs⟩
    exact I.mem_prod_of_mem hs' (I.pow_mem_of_pow_mem (Nat.sInf_mem (hn_ne s)) hs)
```

Some highlights:
- Instead of first introducing an arbitrary neighborhood and then picking an ideal inside, I use [Filter.HasBasis.tendsto_right_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Bases/Basic.html#Filter.HasBasis.tendsto_right_iff) to go straight to the ideal.
- Rewriting "the support of `n` is finite" as "n is equal to zero near the cofinite filter" allows me to use more directly the `ha.tendsto_zero` hypothesis
- Rather than writing down an explicit neighborhood using finite intersections, I first show that `∀ d ∈ D, ∀ᶠ (p : MvPolynomial σ R) in 𝓝 0, φ (p.coeff d) ∈ I` (which is obvious by continuity) and then use the finiteness of `D` to swap the two quantifiers. Under the hood this is the same, but I find it both easier to write and read.
- More generally, I find these "eventually" quantifiers more natural to use that working directly with sets: even though you're doing the same things, you can literally write down "I can assume that these finitely many conditions are verified" using `filter_upwards`.

File: Mathlib/RingTheory/TwoSidedIdeal/Commute.lean [hunk 9]
```diff
@@ -0,0 +1,38 @@
+/-
+Copyright (c) 2025 Antoine Chambert-Loir, María Inés de Frutos-Fernández. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Antoine Chambert-Loir
+-/
+import Mathlib.Data.Nat.Choose.Sum
+import Mathlib.RingTheory.TwoSidedIdeal.BigOperators
+
+/-! # Powers of commuting elements in two sided ideals -/
```
Comment (ADedecker) [inline Mathlib/RingTheory/TwoSidedIdeal/Commute.lean:9]: Do you still need this file, or is it a leftover from the PR on linear topologies where you didn't actually need it?

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 10]
```diff
@@ -0,0 +1,396 @@
...
+
+/-- Families at which power series can be evaluated -/
+structure EvalDomain (a : σ → S) : Prop where
+  hpow : ∀ s, IsTopologicallyNilpotent (a s)
+  tendsto_zero : Tendsto a cofinite (𝓝 0)
+
+/-- The domain of evaluation of `MvPowerSeries`, as an ideal -/
+def EvalDomain_ideal [IsTopologicalRing S] [IsLinearTopology S S] :
+    Ideal (σ → S) where
+  carrier := setOf EvalDomain
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:73]:
```suggestion
  carrier := {a | EvalDomain a}
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 11]
```diff
@@ -0,0 +1,396 @@
...
+    tendsto_zero := tendsto_const_nhds }
+  smul_mem' c {x} hx := {
+    hpow := fun s ↦ by
+      simp only [IsTopologicallyNilpotent, Pi.smul_apply', smul_eq_mul, mul_pow]
+      exact IsLinearTopology.tendsto_mul_zero_of_right _ _ (hx.hpow s)
+    tendsto_zero := IsLinearTopology.tendsto_mul_zero_of_right _ _ hx.tendsto_zero }
+
+theorem EvalDomain.comp {a : σ → R} (ha : EvalDomain a) {ε : R →+* S} (hε : Continuous ε) :
+    EvalDomain (ε ∘ a) := by
+  apply EvalDomain.mk _ ((map_zero ε ▸ Continuous.tendsto' hε 0 (ε 0) rfl).comp ha.tendsto_zero)
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:94]: The goal of [Continuous.tendsto'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Basic.html#Continuous.tendsto') is precisely to avoid rewriting the value of `ε 0`
(otherwise [Continuous.tendsto](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Basic.html#Continuous.tendsto) does the job). 

```suggestion
  apply EvalDomain.mk _ ((Continuous.tendsto' hε 0 0 (map_zero ε)).comp ha.tendsto_zero)
```

File: Mathlib/RingTheory/PowerSeries/Evaluation.lean [hunk 12]
```diff
@@ -0,0 +1,66 @@
...
+variable {R : Type*} [CommRing R]
+variable {S : Type*} [CommRing S]
+
+/-- Families at which power series can be evaluated. -/
+structure EvalDomain [TopologicalSpace S] (a : S) : Prop where
+  hpow : IsTopologicallyNilpotent a
+
+/-- The domain of evaluation of `PowerSeries`, as an ideal. -/
+def EvalDomain.ideal [TopologicalSpace S] [IsLinearTopology S S] : Ideal S where
+  carrier   := setOf IsTopologicallyNilpotent
```
Comment (ADedecker) [inline Mathlib/RingTheory/PowerSeries/Evaluation.lean:30]: Same as above.

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 13]
```diff
@@ -0,0 +1,396 @@
...
+      rcases hd with ⟨s, hs', hs⟩
+      exact I.mem_prod_of_mem hs' (I.pow_mem_of_pow_mem (Nat.sInf_mem (hn_ne s)) hs)
+
+variable (φ a)
+/-- Evaluation of power series. Meaningful on adequate elements or on `MvPolynomial`)  -/
+noncomputable def eval₂ (f : MvPowerSeries σ R) : S := by
+  let hp := fun (p : MvPolynomial σ R) ↦ p = f
+  classical
+  exact if (Classical.epsilon hp = f) then (MvPolynomial.eval₂ φ a (Classical.epsilon hp))
+    else IsDenseInducing.extend coeToMvPowerSeries_denseInducing (MvPolynomial.eval₂ φ a) f
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:231]: Probably just because browsing  the source, I found that Classical.epsilon was doing what I needed.

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:223]: I trusted you and copied your suggestions without too much thinking. I'll try to remember that next time.

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 14]
```diff
@@ -0,0 +1,437 @@
...
+  let hf := fun (p : MvPolynomial σ R) ↦ p = f
+  simp only [eval₂Hom_apply, eval₂]
+  split_ifs with h
+  · obtain ⟨p, rfl⟩ := h
+    simpa [MvPolynomial.coe_eval₂Hom, coeToMvPowerSeries.ringHom_apply] using
+      IsDenseInducing.extend_eq coeToMvPowerSeries_denseInducing
+        (coeToMvPowerSeries_uniformContinuous hφ ha).continuous p
+  · rfl
+
+theorem uniformContinuous_eval₂ (hφ : Continuous φ) (ha : EvalDomain a) :
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:321]:
```suggestion
-- Note: this is still true without the `T2Space` hypothesis, by arguing that the case
-- disjunction in the definition of `eval₂` only replaces some values by topologically
-- inseparable ones.
theorem uniformContinuous_eval₂ (hφ : Continuous φ) (ha : EvalDomain a) :
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 15]
```diff
@@ -0,0 +1,437 @@
...
+    eval₂_coe, eval₂_monomial]
+  · rw [coe_eval₂Hom]; exact continuous_eval₂ hφ ha
+
+theorem eval₂_eq_sum (hφ : Continuous φ) (ha : EvalDomain a)(f : MvPowerSeries σ R) :
+    MvPowerSeries.eval₂ φ a f =
+      tsum (fun (d : σ →₀ ℕ) ↦ φ (coeff R d f) * (d.prod fun s e => (a s) ^ e)) :=
+  (hasSum_eval₂ hφ ha f).tsum_eq.symm
+
+theorem eval₂_unique (hφ : Continuous φ) (ha : EvalDomain a)
+    {ε : MvPowerSeries σ R →+* S} (hε : Continuous ε)
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:349]:
```suggestion
    {ε : MvPowerSeries σ R → S} (hε : Continuous ε)
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 16]
```diff
@@ -0,0 +1,437 @@
...
+    {ε : S →+* T} (hε : Continuous ε) :
+    ε ∘ eval₂ φ a = eval₂ (ε.comp φ) (ε ∘ a) := by
+  rw [← coe_eval₂Hom hφ ha, ← coe_comp]
+  apply eval₂_unique _ (ha.comp hε)
+  · simp only [coe_comp, coe_eval₂Hom hφ ha]
+    exact Continuous.comp hε (continuous_eval₂ hφ ha)
+  · intro p
+    simp only [coe_comp, Function.comp_apply, eval₂_coe]
+    rw [coe_eval₂Hom hφ ha, eval₂_coe φ a, ← MvPolynomial.coe_eval₂Hom, ← comp_apply,
+    MvPolynomial.comp_eval₂Hom]
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:367]:
```suggestion
  apply eval₂_unique _ (ha.comp hε)
  · exact Continuous.comp hε (continuous_eval₂ hφ ha)
  · intro p
    simp only [Function.comp_apply, eval₂_coe]
    rw [← MvPolynomial.coe_eval₂Hom, ← comp_apply, MvPolynomial.comp_eval₂Hom]
```

(This is allowed by the previous suggestion: you don't have to make it a morphism anymore)

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 17]
```diff
@@ -0,0 +1,437 @@
...
+
+-- We endow MvPowerSeries σ R with the product uniform structure
+private instance : UniformSpace (MvPolynomial σ R) :=
+  comap toMvPowerSeries (Pi.uniformSpace _)
+
+/-- The induced uniform structure of MvPolynomial σ R is an add group uniform structure -/
+private instance [UniformAddGroup R] : UniformAddGroup (MvPolynomial σ R) :=
+  UniformAddGroup.comap coeToMvPowerSeries.ringHom
+
+theorem _root_.MvPolynomial.coeToMvPowerSeries_uniformInducing :
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:149]:
```suggestion
theorem _root_.MvPolynomial.coeToMvPowerSeries_isUniformInducing :
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 18]
```diff
@@ -0,0 +1,437 @@
...
+    IsUniformInducing (coeToMvPowerSeries.ringHom (σ := σ) (R := R)) :=
+  (isUniformInducing_iff ⇑coeToMvPowerSeries.ringHom).mpr rfl
+
+theorem _root_.MvPolynomial.coeToMvPowerSeries_denseInducing :
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:153]:
```suggestion
theorem _root_.MvPolynomial.coeToMvPowerSeries_isDenseInducing :
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 19]
```diff
@@ -0,0 +1,437 @@
...
+    | h_C r =>
+      simp only [AlgHom.toRingHom_eq_coe, coe_C, coe_coe, MvPolynomial.eval₂_C]
+      rw [c_eq_algebraMap, AlgHom.commutes]
+    | h_add p q hp hq =>
+      simp only [AlgHom.toRingHom_eq_coe, coe_coe] at hp hq
+      simp only [AlgHom.toRingHom_eq_coe, coe_add, map_add, coe_coe, eval₂_add, hp, hq]
+    | h_X p s h =>
+      simp only [AlgHom.toRingHom_eq_coe, coe_coe] at h
+      simp only [AlgHom.toRingHom_eq_coe, MvPolynomial.coe_mul, coe_X, map_mul, coe_coe, eval₂_mul,
+        MvPolynomial.eval₂_X, h]
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:408]:
```suggestion
    change ε.comp (coeToMvPowerSeries.algHom R) p = _
    conv_lhs => rw [← p.aeval_X_left_apply, MvPolynomial.comp_aeval_apply, MvPolynomial.aeval_def]
    simp [MvPolynomial.comp_aeval_apply, MvPolynomial.aeval_def]
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 20]
```diff
@@ -0,0 +1,437 @@
...
+    [IsTopologicalRing T] [IsLinearTopology T T]
+    [T2Space T] [Algebra R T] [ContinuousSMul R T] [CompleteSpace T]
+    {ε : S →ₐ[R] T} (hε : Continuous ε) :
+    ε.comp (aeval ha) = aeval (ha.map hε)  := by
+  apply DFunLike.coe_injective
+  simp only [AlgHom.coe_comp, coe_aeval ha]
+  erw [comp_eval₂ (continuous_algebraMap R S) ha hε, coe_aeval]
+  apply congr_arg₂
+  · simp only [AlgHom.toRingHom_eq_coe, AlgHom.comp_algebraMap_of_tower, RingHom.coe_coe]
+  · rfl
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:433]:
```suggestion
  apply DFunLike.ext'
  simp only [AlgHom.coe_comp, coe_aeval ha]
  erw [comp_eval₂ (continuous_algebraMap R S) ha hε, coe_aeval]
  congr!
  simp only [AlgHom.toRingHom_eq_coe, AlgHom.comp_algebraMap_of_tower, RingHom.coe_coe]
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 21]
```diff
@@ -0,0 +1,437 @@
...
+theorem _root_.MvPolynomial.coeToMvPowerSeries_uniformInducing :
+    IsUniformInducing (coeToMvPowerSeries.ringHom (σ := σ) (R := R)) :=
+  (isUniformInducing_iff ⇑coeToMvPowerSeries.ringHom).mpr rfl
+
+theorem _root_.MvPolynomial.coeToMvPowerSeries_denseInducing :
+    IsDenseInducing (coeToMvPowerSeries.ringHom (σ := σ) (R := R)) :=
+  coeToMvPowerSeries_uniformInducing.isDenseInducing coeToMvPowerSeries_denseRange
+
+variable {a : σ → S}
+
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:158]:
```suggestion
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 22]
```diff
@@ -0,0 +1,437 @@
...
+-- We endow MvPowerSeries σ R with the Pi topology
+open WithPiTopology
+
+/-- Families at which power series can be evaluated -/
+structure EvalDomain (a : σ → S) : Prop where
+  hpow : ∀ s, IsTopologicallyNilpotent (a s)
+  tendsto_zero : Tendsto a cofinite (𝓝 0)
+
+/-- The domain of evaluation of `MvPowerSeries`, as an ideal -/
+def EvalDomain_ideal [IsTopologicalRing S] [IsLinearTopology S S] :
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:71]:
```suggestion
def evalDomainIdeal [IsTopologicalRing S] [IsLinearTopology S S] :
```

Since most of the results below assume `EvalDomain`, could you extract lemmas `EvalDomain.add`, `EvalDomain.mul`, and so on?

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 23]
```diff
@@ -0,0 +1,437 @@
...
+variable {σ : Type*}
+variable {R : Type*} [CommRing R] [TopologicalSpace R]
+variable {S : Type*} [CommRing S] [TopologicalSpace S]
+variable {φ : R →+* S}
+
+-- We endow MvPowerSeries σ R with the Pi topology
+open WithPiTopology
+
+/-- Families at which power series can be evaluated -/
+structure EvalDomain (a : σ → S) : Prop where
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:66]: I'm a bit annoyed by the fact that `EvalDomain` heavily suggests a set rather than a predicate. Do you see an alternative name which would sound more like a predicate? If not that's fine.

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:66]: `IsEvaluable`, `HasEval`?

Comment (ADedecker) [reply Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:66]: The problem of `IsEvaluable` is that I would say a power series is evaluable at a point, not that a point is evaluable. I think I like `HasEval` better.

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 24]
```diff
@@ -0,0 +1,368 @@
...
+    EvalDomain (fun s ↦ φ (a s)) where
+  hpow := fun s ↦ IsTopologicallyNilpotent.map hφ (ha.hpow s)
+  tendsto_zero := (map_zero φ ▸ hφ.tendsto 0).comp ha.tendsto_zero
+
+theorem EvalDomain.evalDomain_X :
+    EvalDomain (fun s ↦ (MvPowerSeries.X s : MvPowerSeries σ R)) where
+  hpow := fun s ↦ tendsto_pow_zero_of_constantCoeff_zero (constantCoeff_X s)
+  tendsto_zero := by
+    classical
+    exact variables_tendsto_zero
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:122]:
```suggestion
  tendsto_zero := variables_tendsto_zero
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 25]
```diff
@@ -0,0 +1,368 @@
...
+/- ## Construction of an evaluation morphism for power series -/
+
+section Evaluation
+
+open WithPiTopology
+
+variable {σ : Type*} -- [DecidableEq σ]
+variable {R : Type*} [CommRing R] [UniformSpace R]
+variable {S : Type*} [CommRing S] [UniformSpace S]
+variable {φ : R →+* S} -- (hφ : Continuous φ)
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:149]: Don't forget to remove these comments.

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 26]
```diff
@@ -0,0 +1,368 @@
...
+theorem EvalDomain.comp {a : σ → R} (ha : EvalDomain a) {ε : R →+* S} (hε : Continuous ε) :
+    EvalDomain (ε ∘ a) := by
+  apply EvalDomain.mk _ ((Continuous.tendsto' hε 0 0 (map_zero ε)).comp ha.tendsto_zero)
+  · intro s
+    unfold IsTopologicallyNilpotent
+    convert (Continuous.tendsto' hε 0 (ε 0) rfl).comp (ha.hpow s)
+    · ext n; simp only [Function.comp_apply, map_pow]
+    · rw [map_zero]
+
+/-- Bourbaki, Algèbre, chap. 4, §4, n°3, Prop. 4 (i) (a & b) -/
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:111]: Could you make this into a clickable citation? Something like `[Bourbaki, *Algèbre*, chap. 4, §4, n°3, Prop. 4 (i) (a & b)](bourbaki1981)`. 

Note that `bourbaki1981` is the translation, so ideally it would be nice to either
- add another entry for the French version
- adapt your citation to the English version

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 27]
```diff
@@ -0,0 +1,368 @@
...
+  when `a s` tends to  zero for the filter of cofinite subsets of `σ`.
+
+* `MvPowerSeries.eval₂_domain` : the `Prop`-valued structure
+that is required to evaluate power series
+
+* `MvPowerSeries.uniformContinuous_eval₂` : uniform continuity of the evaluation
+
+* `MvPowerSeries.continuous_eval₂` : continuity of the evaluation
+
+* `MvPowerSeries.aeval` : the evaluation map as an algebra map
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:43]: Could you check that these names still correspond to the right lemmas?

File: Mathlib/RingTheory/PowerSeries/Evaluation.lean [hunk 28]
```diff
@@ -0,0 +1,66 @@
...
+-/
+
+import Mathlib.RingTheory.MvPowerSeries.Evaluation
+import Mathlib.RingTheory.PowerSeries.PiTopology
+
+/-! # Evaluation of power series
+
+We adapt evaluation of mv power series to the case of power series.
+
+TODO. Unify more precisely; add documentation.
```
Comment (ADedecker) [inline Mathlib/RingTheory/PowerSeries/Evaluation.lean:14]: It's a bit unsatisfying to specialize all the definitions but none of the basic API. I don't want to bother you more since you are in a hurry, but it would be nice to do a subsequent PR adapting the API.

Also, please make sure that all the names match!

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean (hunk 23 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:66]: Go for `HasEval`

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 29]
```diff
@@ -0,0 +1,368 @@
...
+    EvalDomain (fun s ↦ (MvPowerSeries.X s : MvPowerSeries σ R)) where
+  hpow := fun s ↦ tendsto_pow_zero_of_constantCoeff_zero (constantCoeff_X s)
+  tendsto_zero := by
+    classical
+    exact variables_tendsto_zero
+
+theorem Continuous.on_scalars {ε : MvPowerSeries σ R →+* S} (hε : Continuous ε) :
+    Continuous (ε.comp (C σ R)) := by
+  rw [coe_comp]
+  exact Continuous.comp hε MvPowerSeries.WithPiTopology.continuous_C
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:124]: It's not used, I deleted it.

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 30]
```diff
@@ -0,0 +1,360 @@
...
+    simp only [Function.comp_apply, map_pow]
+  tendsto_zero := (Continuous.tendsto' hε 0 0 (map_zero ε)).comp ha.tendsto_zero
+
+/-- [Bourbaki, *Algebra*, chap. 4, §4, n°3, Prop. 4 (i) (a & b)](bourbaki1981). -/
+theorem HasEval.map (hφ : Continuous φ) {a : σ → R} (ha : HasEval a) :
+    HasEval (fun s ↦ φ (a s)) where
+  hpow := fun s ↦ IsTopologicallyNilpotent.map hφ (ha.hpow s)
+  tendsto_zero := (map_zero φ ▸ hφ.tendsto 0).comp ha.tendsto_zero
+
+theorem HasEval.hasEval_X :
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:116]:
```suggestion
protected theorem HasEval.X :
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 31]
```diff
@@ -0,0 +1,360 @@
...
+    unfold IsTopologicallyNilpotent
+    convert (Continuous.tendsto' hε 0 0 (map_zero ε)).comp (ha.hpow s) using 2
+    simp only [Function.comp_apply, map_pow]
+  tendsto_zero := (Continuous.tendsto' hε 0 0 (map_zero ε)).comp ha.tendsto_zero
+
+/-- [Bourbaki, *Algebra*, chap. 4, §4, n°3, Prop. 4 (i) (a & b)](bourbaki1981). -/
+theorem HasEval.map (hφ : Continuous φ) {a : σ → R} (ha : HasEval a) :
+    HasEval (fun s ↦ φ (a s)) where
+  hpow := fun s ↦ IsTopologicallyNilpotent.map hφ (ha.hpow s)
+  tendsto_zero := (map_zero φ ▸ hφ.tendsto 0).comp ha.tendsto_zero
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:114]: I just realized, aren't these two lemmas saying exactly the same thing?

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 32]
```diff
@@ -0,0 +1,360 @@
...
+theorem HasEval.add [IsTopologicalRing S] [IsLinearTopology S S]
+    {a b : σ → S} (ha : HasEval a) (hb : HasEval b) : HasEval (a + b) :=
+  hasEvalIdeal.add_mem' ha hb
+
+theorem HasEval.zero [IsTopologicalRing S] [IsLinearTopology S S] : HasEval (0 : σ → S) :=
+  hasEvalIdeal.zero_mem'
+
+theorem HasEval.smul_mem [IsTopologicalRing S] [IsLinearTopology S S]
+    (c : σ → S) {x : σ → S} (hx : HasEval x) : HasEval (c • x) :=
+  hasEvalIdeal.smul_mem' c hx
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:100]:
```suggestion
theorem HasEval.mul_left [IsTopologicalRing S] [IsLinearTopology S S]
    (c : σ → S) {x : σ → S} (hx : HasEval x) : HasEval (c * x) :=
  hasEvalIdeal.mul_mem_left c hx

theorem HasEval.mul_right [IsTopologicalRing S] [IsLinearTopology S S]
    (c : σ → S) {x : σ → S} (hx : HasEval x) : HasEval (x * c) :=
  hasEvalIdeal.mul_mem_right c hx
```
(untested)

**Review by ADedecker — COMMENTED** [review]
With these and the comments remaining from yesterday I think we are almost done.

File: Mathlib/RingTheory/PowerSeries/Evaluation.lean (hunk 28 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Evaluation.lean]: I wanted to say more and I couldn't find the identification of `Polynomial R` with `MvPolynomial Unit R`!

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean (hunk 31 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:111]: Oops…

File: Mathlib/RingTheory/PowerSeries/Evaluation.lean (hunk 28 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Evaluation.lean]: So I filled the API for `PowerSeries`. This forced me to add four lemmas about polynomials and the identification of polynomials in one variable with multivariate polynomials with a `Unique` type of indeterminates.
Two lemmas compare evaluations; two other compare coercions to power series.

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 33]
```diff
@@ -0,0 +1,357 @@
...
+import Mathlib.RingTheory.MvPowerSeries.Trunc
+import Mathlib.Topology.Algebra.Algebra
+import Mathlib.Topology.Algebra.TopologicallyNilpotent
+import Mathlib.Topology.Algebra.LinearTopology
+import Mathlib.Topology.Algebra.UniformRing
+
+/-! # Evaluation of multivariate power series
+
+Let `σ`, `R` `S` be types, with `CommRing R`, `CommRing S`.
+One assumes that `TopologicalRing R` and `UniformAddGroup R`,
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:19]:
```suggestion
One assumes that `IsTopologicalRing R` and `UniformAddGroup R`,
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 34]
```diff
@@ -0,0 +1,357 @@
...
+and that `S` is a complete and separated topological `R`-algebra,
+with `LinearTopology R`, which means there is a basis of neighborhoods of 0
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:21]:
```suggestion
with `IsLinearTopology S S`, which means there is a basis of neighborhoods of 0
```
(I think)

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 35]
```diff
@@ -0,0 +1,357 @@
...
+its values are irrelevant unless `φ` is continuous and `a` satisfies two conditions
+bundled in `MvPowerSeries.HasEval a` :
+  - for all `s : σ`, `a s` is topologically nilpotent,
+    meaning that `(a s) ^ n` tends to 0 when `n` tends to infinity
+  - when `a s` tends to  zero for the filter of cofinite subsets of `σ`.
+
+Under `Continuous φ` and `HasEval a`, the following lemmas furnish the properties of evaluation:
+
+* `MvPowerSeries.eval₂Hom`: the evaluation of multivariate power series, as a ring morphism,
+* `MvPowerSeries.aeval`: the evaluation map as an algebra map
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:37]:
```suggestion
* `MvPowerSeries.aeval`: the evaluation map as an algebra morphism
```
(just because this is not `algebraMap`)

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 36]
```diff
@@ -0,0 +1,357 @@
...
+
+Given `φ : R →+* S`, `a : σ → S`, and `f : MvPowerSeries σ R`,
+`MvPowerSeries.eval₂ f φ a` is the evaluation of the multivariate power series `f` at `a`.
+It `f` is (the coercion of) a polynomial, it coincides with the evaluation of that polynomial.
+Otherwise, it is defined by density from polynomials;
+its values are irrelevant unless `φ` is continuous and `a` satisfies two conditions
+bundled in `MvPowerSeries.HasEval a` :
+  - for all `s : σ`, `a s` is topologically nilpotent,
+    meaning that `(a s) ^ n` tends to 0 when `n` tends to infinity
+  - when `a s` tends to  zero for the filter of cofinite subsets of `σ`.
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:32]:
```suggestion
  - when `a s` tends to zero for the filter of cofinite subsets of `σ`.
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 37]
```diff
@@ -0,0 +1,357 @@
...
+
+Under `Continuous φ` and `HasEval a`, the following lemmas furnish the properties of evaluation:
+
+* `MvPowerSeries.eval₂Hom`: the evaluation of multivariate power series, as a ring morphism,
+* `MvPowerSeries.aeval`: the evaluation map as an algebra map
+* `MvPowerSeries.uniformContinuous_eval₂`: uniform continuity of the evaluation
+* `MvPowerSeries.continuous_eval₂`: continuity of the evaluation
+* `MvPowerSeries.eval₂_eq_tsum`:  the evaluation is given by the sum of its monomials, evaluated.
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:40]:
```suggestion
* `MvPowerSeries.eval₂_eq_tsum`: the evaluation is given by the sum of its monomials, evaluated.
```

File: Mathlib/RingTheory/PowerSeries/Evaluation.lean [hunk 38]
```diff
@@ -0,0 +1,198 @@
...
+Otherwise, it is defined by density from polynomials;
+its values are irrelevant unless `φ` is continuous and `a` satisfies the condition
+bundled in `PowerSeries.HasEval a` :
+  - `a` is topologically nilpotent (`a ^ n` tends to 0 when `n` tends to infinity)
+
+Under `Continuous φ` and `PowerSeries.HasEval a`,
+the following lemmas furnish the properties of evaluation:
+
+* `PowerSeries.eval₂Hom`: the evaluation of multivariate power series, as a ring morphism,
+* `PowerSeries.aeval`: the evaluation map as an algebra map
```
Comment (ADedecker) [inline Mathlib/RingTheory/PowerSeries/Evaluation.lean:35]:
```suggestion
* `PowerSeries.aeval`: the evaluation map as an algebra morphism
```

File: Mathlib/RingTheory/PowerSeries/Evaluation.lean [hunk 39]
```diff
@@ -0,0 +1,198 @@
...
+* `PowerSeries.uniformContinuous_eval₂`: uniform continuity of the evaluation
+* `PowerSeries.continuous_eval₂`: continuity of the evaluation
+* `PowerSeries.eval₂_eq_tsum`:  the evaluation is given by the sum of its monomials, evaluated.
```
Comment (ADedecker) [inline Mathlib/RingTheory/PowerSeries/Evaluation.lean:38]:
```suggestion
* `PowerSeries.eval₂_eq_tsum`: the evaluation is given by the sum of its monomials, evaluated.
```

File: Mathlib/RingTheory/PowerSeries/Evaluation.lean [hunk 40]
```diff
@@ -0,0 +1,198 @@
...
+import Mathlib.RingTheory.PowerSeries.PiTopology
+import Mathlib.Algebra.MvPolynomial.Equiv
+
+/-! # Evaluation of power series
+
+Power series in one indeterminate are the particular case of multivariate power series,
+for the `Unit` type of indeterminates.
+This file provides a simpler syntax.
+
+Let `R` `S` be types, with `CommRing R`, `CommRing
```
Comment (ADedecker) [inline Mathlib/RingTheory/PowerSeries/Evaluation.lean:17]:
```suggestion
Let `R`, `S` be types, with `CommRing R`, `CommRing S`.
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 41]
```diff
@@ -0,0 +1,357 @@
...
+import Mathlib.RingTheory.MvPowerSeries.PiTopology
+import Mathlib.RingTheory.MvPowerSeries.Trunc
+import Mathlib.Topology.Algebra.Algebra
+import Mathlib.Topology.Algebra.TopologicallyNilpotent
+import Mathlib.Topology.Algebra.LinearTopology
+import Mathlib.Topology.Algebra.UniformRing
+
+/-! # Evaluation of multivariate power series
+
+Let `σ`, `R` `S` be types, with `CommRing R`, `CommRing S`.
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:18]:
```suggestion
Let `σ`, `R`, `S` be types, with `CommRing R`, `CommRing S`.
```

**Review by ADedecker — COMMENTED** [review]
Sorry for the delay. I will check some remaining stuff tomorrow morning, but I think it looks ready. Thanks a ton for taking the time to polish the univariate setting!

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 42]
```diff
@@ -870,6 +871,27 @@ theorem coe_eq_one_iff : (φ : PowerSeries R) = 1 ↔ φ = 1 := by rw [← coe_o
...
+  induction f using MvPolynomial.induction_on' with
+  | h1 d r =>
+    rw [MvPolynomial.pUnitAlgEquiv_monomial]
+    ext n
+    rw [MvPolynomial.coe_monomial, Polynomial.coe_monomial]
+    rw [PowerSeries.coeff_monomial, PowerSeries.coeff, MvPowerSeries.coeff_monomial]
+    by_cases h : n = d ()
+    · rw [if_pos h, if_pos]; ext; simp [h]
+    · rw [if_neg h, if_neg]; intro h'; apply h
+      simp [← h']
```
[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:885]: (I wrote a note because this can stay has a note for now)

File: Mathlib/RingTheory/PowerSeries/Evaluation.lean [hunk 43]
```diff
@@ -0,0 +1,193 @@
...
+One assumes that `IsTopologicalRing R` and `UniformAddGroup R`,
+and that `S` is a complete and separated topological `R`-algebra,
+with `IsLinearTopology S S`, which means there is a basis of neighborhoods of 0
+consisting of ideals.
+
+Given `φ : R →+* S`, `a : S`, and `f : MvPowerSeries σ R`,
+`PowerSeries.eval₂ f φ a` is the evaluation of the power series `f` at `a`.
+It `f` is (the coercion of) a polynomial, it coincides with the evaluation of that polynomial.
+Otherwise, it is defined by density from polynomials;
+its values are irrelevant unless `φ` is continuous and `a` is topologically
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Evaluation.lean:27]: bot fix style

File: Mathlib/RingTheory/PowerSeries/Evaluation.lean [hunk 44]
```diff
@@ -0,0 +1,193 @@
...
+It coincides with the evaluation of `f` as a polynomial if `f` is the coercion of a polynomial.
+Otherwise, it is only relevant if `φ` is continuous and `a` is topologically nilpotent. -/
+noncomputable def eval₂ : PowerSeries R → S :=
+  MvPowerSeries.eval₂ φ (fun _ ↦ a)
+
+theorem eval₂_coe (f : Polynomial R) : eval₂ φ a f = f.eval₂ φ a := by
+  let g : MvPolynomial Unit R := (MvPolynomial.pUnitAlgEquiv R).symm f
+  have : f = MvPolynomial.pUnitAlgEquiv R g := by
+    simp only [g, ← AlgEquiv.symm_apply_eq]
+  simp only [this, PowerSeries.eval₂, MvPolynomial.eval₂_pUnitAlgEquiv]
```
Comment (ADedecker) [inline Mathlib/RingTheory/PowerSeries/Evaluation.lean:81]:
```suggestion
  simp only [this, PowerSeries.eval₂, MvPolynomial.eval₂_const_pUnitAlgEquiv]
```
I think this will fix the build error.

File: Mathlib/Algebra/MvPolynomial/Equiv.lean [hunk 45]
```diff
@@ -82,6 +82,16 @@ def pUnitAlgEquiv : MvPolynomial PUnit R ≃ₐ[R] R[X] where
   map_add' _ _ := eval₂_add _ _
   commutes' _ := eval₂_C _ _ _
 
+theorem pUnitAlgEquiv_monomial {d : PUnit →₀ ℕ} {r : R} :
+    MvPolynomial.pUnitAlgEquiv R (MvPolynomial.monomial d r)
+      = Polynomial.monomial (d ()) r := by
+  simp [Polynomial.C_mul_X_pow_eq_monomial]
+
+theorem monomial_pUnitAlgEquiv_symm {d : PUnit →₀ ℕ} {r : R} :
```
Comment (ADedecker) [inline Mathlib/Algebra/MvPolynomial/Equiv.lean:90]:
```suggestion
theorem pUnitAlgEquiv_symm_monomial {d : PUnit →₀ ℕ} {r : R} :
```
(I checked, there's nothing else to change)

**Review by ADedecker — APPROVED** [review]
Final nitpick for me! Thanks a lot for bearing with the extensive review! 

I'm going to `maintainer delegate` this just for other maintainers to look at the proof of `MvPolynomial.coeToMvPowerSeries_uniformContinuous` since I rewrote it significantly, but I'll make sure this doesn't wait for long.

maintainer delegate

**Comment by eric-wieser** [comment]
What's the overlap between this PR and #20424 (cc @erdOne)?

File: scripts/noshake.json [hunk 46]
```diff
@@ -327,6 +327,8 @@
   "Mathlib.Tactic.ArithMult": ["Mathlib.Tactic.ArithMult.Init"],
   "Mathlib.Tactic.Algebraize": ["Mathlib.Algebra.Algebra.Tower"],
   "Mathlib.RingTheory.SimpleModule.Basic": ["Mathlib.Data.Matrix.Mul"],
+  "Mathlib.RingTheory.PowerSeries.Evaluation":
```
Comment (riccardobrasca) [inline scripts/noshake.json:330]: What is the problem with these files?

File: Mathlib/Topology/Algebra/TopologicallyNilpotent.lean [hunk 47]
```diff
@@ -125,6 +125,13 @@ theorem add {a b : R} (ha : IsTopologicallyNilpotent a) (hb : IsTopologicallyNil
     IsTopologicallyNilpotent (a + b) :=
   ha.add_of_commute hb (Commute.all ..)
 
+/-- The topological nilradical of a ring with a linear topology -/
+def topologicalNilradical : Ideal R where
```
Comment (riccardobrasca) [inline Mathlib/Topology/Algebra/TopologicallyNilpotent.lean:129]: Can you add at least the obvious `...mem_iff` lemma?

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 48]
```diff
@@ -0,0 +1,356 @@
...
+
+variable {a : σ → S}
+
+/- The evaluation map on multivariate polynomials is uniformly continuous
+for the uniform structure induced by that on multivariate power series. -/
+theorem _root_.MvPolynomial.coeToMvPowerSeries_uniformContinuous
+    [UniformAddGroup R] [UniformAddGroup S] [IsLinearTopology S S]
+    (hφ : Continuous φ) (ha : HasEval a) :
+    UniformContinuous (MvPolynomial.eval₂Hom φ a) := by
+  classical
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:160]:
```suggestion
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 49]
```diff
@@ -0,0 +1,356 @@
...
+
+theorem eval₂_coe (f : MvPolynomial σ R) :
+    MvPowerSeries.eval₂ φ a f = MvPolynomial.eval₂ φ a f := by
+  have : ∃ p : MvPolynomial σ R, (p : MvPowerSeries σ R) = f := ⟨f, rfl⟩
+  rw [eval₂, dif_pos this]
+  congr
+  rw [← MvPolynomial.coe_inj, this.choose_spec]
+
+theorem eval₂_C (r : R) :
+    eval₂ φ a (C σ R r) = φ r := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:212]:
```suggestion
theorem eval₂_C (r : R) : eval₂ φ a (C σ R r) = φ r := by
```
If you want. Same below.

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 50]
```diff
@@ -0,0 +1,356 @@
...
+theorem coe_eval₂Hom (hφ : Continuous φ) (ha : HasEval a) :
+    ⇑(eval₂Hom hφ ha) = eval₂ φ a := by
+  ext f
+  simp only [eval₂Hom_eq_extend, eval₂]
+  split_ifs with h
+  · obtain ⟨p, rfl⟩ := h
+    simpa [MvPolynomial.coe_eval₂Hom, coeToMvPowerSeries.ringHom_apply] using
+      coeToMvPowerSeries_isDenseInducing.extend_eq
+        (coeToMvPowerSeries_uniformContinuous hφ ha).continuous p
+  · rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:247]:
```suggestion
  · rw [← eval₂Hom_eq_extend hφ ha]
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 51]
```diff
@@ -0,0 +1,356 @@
...
+    {T : Type*} [UniformSpace T] [CompleteSpace T] [T2Space T]
+    [CommRing T] [IsTopologicalRing T] [IsLinearTopology T T] [UniformAddGroup T]
+    {ε : S →+* T} (hε : Continuous ε) :
+    ε ∘ eval₂ φ a = eval₂ (ε.comp φ) (ε ∘ a) := by
+  apply eval₂_unique _ (ha.map hε)
+  · exact Continuous.comp hε (continuous_eval₂ hφ ha)
+  · intro p
+    simp only [Function.comp_apply, eval₂_coe]
+    rw [← MvPolynomial.coe_eval₂Hom, ← comp_apply, MvPolynomial.comp_eval₂Hom]
+    rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:296]:
```suggestion
    rw [← MvPolynomial.coe_eval₂Hom, ← comp_apply, MvPolynomial.comp_eval₂Hom,  
      MvPolynomial.coe_eval₂Hom]
```

File: Mathlib/RingTheory/PowerSeries/Evaluation.lean [hunk 52]
```diff
@@ -0,0 +1,193 @@
...
+variable [Algebra R S] [ContinuousSMul R S]
+
+/-- For `IsTopologicallyNilpotent a`,
+the evaluation homomorphism at `a` on `PowerSeries`, as an `AlgHom`. -/
+noncomputable def aeval (ha : IsTopologicallyNilpotent a) :
+    PowerSeries R →ₐ[R] S :=
+  MvPowerSeries.aeval (hasEval ha)
+
+theorem coe_aeval (ha : IsTopologicallyNilpotent a) :
+    ⇑(aeval ha) = eval₂ (algebraMap R S) a :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Evaluation.lean:161]:
```suggestion
    ↑(aeval ha) = eval₂ (algebraMap R S) a :=
```
Let's Lean figure out what coercion is needed here.

File: Mathlib/RingTheory/PowerSeries/Evaluation.lean [hunk 53]
```diff
@@ -0,0 +1,193 @@
...
+
+theorem continuous_aeval (ha : IsTopologicallyNilpotent a) :
+    Continuous (aeval ha : PowerSeries R → S) :=
+  MvPowerSeries.continuous_aeval (hasEval ha)
+
+theorem aeval_coe (ha : IsTopologicallyNilpotent a) (p : Polynomial R) :
+    aeval ha (p : PowerSeries R) = Polynomial.aeval a p := by
+  rw [coe_aeval, Polynomial.aeval_def, eval₂_coe]
+
+theorem aeval_unique {ε : PowerSeries R →ₐ[R] S} (hε : Continuous ε) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Evaluation.lean:172]: (symmetric version of) This can be `simp`.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: scripts/noshake.json (hunk 46 above)
Comment (AntoineChambert-Loir) [reply scripts/noshake.json:330]: It requires to import `Polynomial`, because otherwise the namespace doesn't exist.

**Comment by riccardobrasca** [comment]
> What's the overlap between this PR and #20424 (cc @erdOne)?

I didn't notice the other PR, thanks for spotting this! @AntoineChambert-Loir @mariainesdff can you please wait before merging this one? Thanks!

File: Mathlib/Topology/Algebra/TopologicallyNilpotent.lean (hunk 47 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Algebra/TopologicallyNilpotent.lean]: I did that and also moved `topologicalNilradical` to the `_root_` namespace.

**Comment by AntoineChambert-Loir** [comment]
Thanks!

Le 17 mars 2025 18:34:05 GMT+01:00, Riccardo Brasca ***@***.***> a écrit :

**Comment by AntoineChambert-Loir** [comment]
Thanks! We will be able to help, if needed.

Le 17 mars 2025 18:32:05 GMT+01:00, Andrew Yang ***@***.***> a écrit :

**Comment by riccardobrasca** [comment]
@AntoineChambert-Loir the PR didn't pass CI

File: scripts/noshake.json (hunk 46 above)
Comment (eric-wieser) [reply scripts/noshake.json:330]: Is there a smaller import? `PiTopology` doesn't seem like the one you want for `Polynomial`.

File: Mathlib/RingTheory/PowerSeries/Evaluation.lean [hunk 54]
```diff
@@ -0,0 +1,194 @@
...
+    Continuous (aeval ha : PowerSeries R → S) :=
+  MvPowerSeries.continuous_aeval (hasEval ha)
+
+theorem aeval_coe (ha : IsTopologicallyNilpotent a) (p : Polynomial R) :
+    aeval ha (p : PowerSeries R) = Polynomial.aeval a p := by
+  rw [coe_aeval, Polynomial.aeval_def, eval₂_coe]
+
+@[simp]
+theorem aeval_unique {ε : PowerSeries R →ₐ[R] S} (hε : Continuous ε) :
+    aeval (isTopologicallyNilpotent_X.map hε) = ε:=
```
Comment (eric-wieser) [inline Mathlib/RingTheory/PowerSeries/Evaluation.lean:174]:
```suggestion
    aeval (isTopologicallyNilpotent_X.map hε) = ε :=
```

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 55]
```diff
@@ -0,0 +1,354 @@
...
+-- We endow MvPowerSeries σ R with the Pi topology
+open WithPiTopology
+
+/-- Families at which power series can be consistently evaluated -/
+structure HasEval (a : σ → S) : Prop where
+  hpow : ∀ s, IsTopologicallyNilpotent (a s)
+  tendsto_zero : Tendsto a cofinite (𝓝 0)
+
+/-- The domain of evaluation of `MvPowerSeries`, as an ideal -/
+def hasEvalIdeal [IsTopologicalRing S] [IsLinearTopology S S] : Ideal (σ → S) where
```
Comment (eric-wieser) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:68]: Can you add the lemma `mem_hasEvalIdeal_iff` with `HasEval` on the RHS?

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 56]
```diff
@@ -0,0 +1,354 @@
...
+    tendsto_zero := tendsto_const_nhds }
+  smul_mem' c {x} hx := {
+    hpow := fun s ↦ by
+      simp only [IsTopologicallyNilpotent, Pi.smul_apply', smul_eq_mul, mul_pow]
+      exact IsLinearTopology.tendsto_mul_zero_of_right _ _ (hx.hpow s)
+    tendsto_zero := IsLinearTopology.tendsto_mul_zero_of_right _ _ hx.tendsto_zero }
+
+theorem HasEval.add [IsTopologicalRing S] [IsLinearTopology S S]
+    {a b : σ → S} (ha : HasEval a) (hb : HasEval b) : HasEval (a + b) :=
+  hasEvalIdeal.add_mem' ha hb
```
Comment (eric-wieser) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:90]: nit: you should prove this and `zero` first, since it likely is more general than the ideal above

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean [hunk 57]
```diff
@@ -0,0 +1,354 @@
...
+
+theorem HasEval.mul_left [IsTopologicalRing S] [IsLinearTopology S S]
+    (c : σ → S) {x : σ → S} (hx : HasEval x) : HasEval (c * x) :=
+  hasEvalIdeal.mul_mem_left c hx
+
+theorem HasEval.mul_right [IsTopologicalRing S] [IsLinearTopology S S]
+    (c : σ → S) {x : σ → S} (hx : HasEval x) : HasEval (x * c) :=
+  hasEvalIdeal.mul_mem_right c hx
+
+/-- [Bourbaki, *Algebra*, chap. 4, §4, n°3, Prop. 4 (i) (a & b)](bourbaki1981). -/
```
Comment (eric-wieser) [inline Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:103]:
```suggestion
/-- [Bourbaki, *Algebra*, chap. 4, §4, n°3, Prop. 4 (i) (a & b)][bourbaki1981]. -/
```
I believe references use `[]` brackets.

File: Mathlib/RingTheory/MvPowerSeries/Evaluation.lean (hunk 56 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:90]: @eric-wieser , I don't get your point: in what sense is this more general?

Comment (eric-wieser) [reply Mathlib/RingTheory/MvPowerSeries/Evaluation.lean:95]: For example, maybe this theorem holds in nonunital rings, where `Ideal` doesn't type-check. If you prove the theorem before doing the bundling, then it's easier for a future contributor to generalize it, or a future linter to auto detect this.

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Evaluation.lean]: OK, I did it.

File: scripts/noshake.json (hunk 46 above)
Comment (eric-wieser) [reply scripts/noshake.json:330]: I think perhaps you meant `WithPiTopology` not `Polynomial`?

Comment (eric-wieser) [reply scripts/noshake.json]: Either way, I deleted this line and everything was fine.

**Comment by AntoineChambert-Loir** [comment]
Thank you, @eric-wieser  for all these adjustments.

**Comment by AntoineChambert-Loir** [comment]
@eric-wieser , I probably made a mistake: from the message given by bors, I understand that the commits you have done, and which I had reviewed, have not been included.
I am going to open a new PR to include them. Sorry.

**Comment by AntoineChambert-Loir** [comment]
No, my bad, it seems to be OK.

**Comment by eric-wieser** [comment]
Bors has squashed the commits together, but indeed I don't think any any is needed here.
